US07452880B2
2,4-Difluorophenol (22 mL, 241.34 mmol) was dissolved in 140 mL of dry THF and cooled to 0° C. Sodium hydride (9.43 g, 235.85 mmol, 60% suspension in oil) was added in portions, and the reaction mixture was stirred for 30 minutes at 0° C. 5-Bromo-2,4-dichloro-pyrimidine (25.0 g, 109.7 mmol) was added in portions over 10 minutes, and the reaction mixture was allowed to warm to room temperature and was stirred overnight at room temperature. The reaction was quenched by addition of 30 mL saturated aqueous ammonium chloride and 100 mL of water. The aqueous mixture was extracted three times with 100 mL EtOAc, and the combined organic layers were dried (MgSO4), filtered, and the filtrate was evaporated under reduced pressure. The residue was purified by FLASH chromatography (2% to 6% EtOAc/Hexanes. The resulting solid was recrystallized from diethyl ether/hexanes to afford 12.6 g of 5-bromo-2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine as a white solid. Mass Spec. M+H=416.

reactant | 2,4-Difluorophenol | 241.34 mmol, 22 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | Sodium hydride | 235.85 mmol, 9.43 g | [H-].[Na+]
reactant | 5-Bromo-2,4-dichloro-pyrimidine | 109.7 mmol, 25.0 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 5-bromo-2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine | 12.6 g | BrC=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C16H7BrF4N2O2
